US05610144
By proceeding in a fashion similar to that described in Example 9, but starting from 3.5 g of methyl (2RS,5SR)-3-{3-{2-[2-(2-methylphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate in solution in 60 cm3 of methanol and 0.56 g of potassium hydroxide in solution in 11 cm3 of water, and after treatment and recrystallization in ethyl acetate, 2.2 g of (2RS,5SR)-3-{3-{2-[2-(2-methylphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid, melting at 133° C., are obtained.

reactant | methyl (2RS,5SR)-3-{3-{2-[2-(2-methylphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetate | 3.5 g | CC1=C(C=CC=C1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C29H31N3O4
solvent | methanol | 60 cm3 | CO | CH4O
product | (2RS,5SR)-3-{3-{2-[2-(2-methylphenyl)-5-phenyl-1-pyrrolidinyl]-2-oxoethyl}ureido}phenylacetic acid | 2.2 g | CC1=C(C=CC=C1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C28H29N3O4
